US07247734B2
This compounds was synthesised in the same manner as described above. 4-Chlororesorcinol (0.125 g, 0.87 mmol), [2-(3-Cyano-propoxy)-phenyl]-acetic acid (0.19 g, 0.87 mmol), BF3Et2O (5 ml), PCl5 (0.27 g, 1.3 mmol), DMF (8 ml and 5 ml). Crude 4-[2-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-phenoxy]-butyronitrile was obtained as an oil which was taken onto the next stage without further purification.

reactant | 4-Chlororesorcinol | 0.87 mmol, 0.125 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | [2-(3-Cyano-propoxy)-phenyl]-acetic acid | 0.87 mmol, 0.19 g | C(#N)CCCOC1=C(C=CC=C1)CC(=O)O | C12H13NO3
reactant | PCl5 | 1.3 mmol, 0.27 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-[2-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-phenoxy]-butyronitrile | ClC=1C=C2C(C(=COC2=CC1O)C1=C(OCCCC#N)C=CC=C1)=O | C19H14ClNO4
